data/rdb19/train.csv
rxn,smiles,ea
3067,[C:16]([C:17]([C:18]([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4](=[O:5])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:18]([C:17]([C:16]([H:26])([H:27])[H:28])([H:29])[H:30])([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35],53.56623689742992
1475,[C:10]([C:11]([C:12]([H:13])[O:14][C:15]([H:21])([H:22])[H:23])([H:19])[H:20])([H:16])([H:17])[H:18].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2]([O:3][H:21])([C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11]([C:10]([H:16])([H:17])[H:18])([H:19])[H:20])([H:13])[O:14][C:15]([H:22])[H:23])[H:6],29.823240275902208
3777,[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:20]([N:19]([C:18](=[C:17]([H:22])[H:23])[H:24])[H:25])([O:21])[H:26])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:20]([N:19]([C:18](=[C:17]([H:22])[H:23])[H:24])[H:25])([O:21][H:11])[H:26])[H:10])([H:7])([H:8])[H:9],13.773279791872485
3069,[C:16]([C:17]([C:18]([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:14])[H:15])([H:13])[C:18]([C:17]([C:16]([H:26])([H:27])[H:28])([H:29])[H:30])([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35])([H:11])[H:12])([H:8])([H:9])[H:10],18.32445405499311
162,[C:12]([C:13]([C:14]([C:15]([H:28])([H:29])[H:30])([c:16]1[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]1[H:35])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:7])[H:8].[H:6][C:19]1([H:33])[C:18]([H:32])[C:17]([H:31])=[C:16]([C:14]([C:13]([C:12]([H:22])([H:23])[H:24])([H:25])[H:26])([C:15]([H:28])([H:29])[H:30])[H:27])[C:21]([H:35])=[C:20]1[H:34],45.12138996680733
4434,[C:13]([H:14])([H:15])[H:16].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:8])[H:9].[H:7][C:13]([H:14])([H:15])[H:16],17.819574849010678
3707,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[H:11][C:22]1([H:36])[C:21]([C:19]([C:18]([C:17]([H:27])([H:28])[H:29])([H:30])[H:31])([C:20]([H:33])([H:34])[H:35])[H:32])[C:26]([H:40])=[C:25]([H:39])[C:24]([H:38])=[C:23]1[H:37],41.61095989536261
3741,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[N:21]([C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([C:20]([H:30])([H:31])[H:32])[H:29])[H:33])([H:10])[H:11])([H:7])([H:8])[H:9].[C:22](=[O:23])[H:34],44.886537582438905
5270,[C:1]([C:2]([C:3]([H:4])[H:5])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21](=[C:22]([N:23]([C:24](=[O:25])[H:30])[H:29])[H:28])([H:26])[H:27]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:24]([N:23]([C:22](=[C:21]([H:26])[H:27])[H:28])[H:29])([O:25])[H:30])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14],22.390248091425747
348,[C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])([c:8]1[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]1[H:27])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16].[O:1]([O:2])[H:3]>>[C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])([c:8]1[c:9]([H:23])[c:10][c:11]([H:25])[c:12]([H:26])[c:13]1[H:27])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16].[O:1]([O:2][H:24])[H:3],31.14201979024801
25,[C:12]([C:13]([O:14][C:15](=[O:16])[C:17]([C:18]([H:27])([H:28])[H:29])([C:19]([C:20]([H:32])([H:33])[H:34])([H:30])[H:31])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:19]([C:17]([C:15]([O:14][C:13]([C:12]([H:21])([H:22])[H:23])([H:24])[H:25])=[O:16])([C:18]([H:27])([H:28])[H:29])[H:26])([H:30])[H:31])([H:6])([H:7])[H:8].[C:20]([H:32])([H:33])[H:34],69.27599501679651
